US09227951B2
To a solution of methyl 2-(1-(tert-butoxycarbonylamino)ethyl)thiazole-5-carboxylate (0.9 g, 3 mmol) in MeOH (5 mL) was added 4M HCl in dioxane (4 mL). The reaction was stirred overnight at room temperature. The reaction was evaporated to dryness to afford 5-(1-aminoethyl)thiophene-2-carboxylate hydrochloride (0.7 g, 100%).

reactant | methyl 2-(1-(tert-butoxycarbonylamino)ethyl)thiazole-5-carboxylate | 3 mmol, 0.9 g | C(C)(C)(C)OC(=O)NC(C)C=1SC(=CN1)C(=O)OC | C12H18N2O4S
reactant | HCl | 4M | Cl | ClH
reactant | MeOH | 5 mL | CO | CH4O
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 5-(1-aminoethyl)thiophene-2-carboxylate hydrochloride | 0.7 g, 100% | Cl.NC(C)C1=CC=C(S1)C(=O)O | InChI=1S/C7H9NO2S.ClH/c1-4(8)5-2-3-6(11-5)7(9)10;/h2-4H,8H2,1H3,(H,9,10);1H
